US07674791B2
A solution of 3,5-dibromo-pyrazin-2-ylamine (608 mg, 2.4 mmol), furan-2-carbonitrile (297 uL, 3.39 mmol) and AlCl3 (320 mg, 2.4 mmol) in dichloroethane (6 ml) was heated at 115° C. overnight. The reaction was cooled to room temperature and water (5 ml) was added. After 30 minutes, the resulting precipitate was collected and purified by column chromatography (SiO2, THF) to afford 595 mg (72%) of N-(3,5-dibromo-pyrazin-2-yl)-furan-2-carboxamidine as a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 6.73 (dd, J=3.4, 1.8 Hz, 1H), 7.3 (dd, J=3.1 Hz, 1H), 7.98 (s, 1H), 8.49(s, 1H), 8.69 (br. s, 1H).

reactant | 3,5-dibromo-pyrazin-2-ylamine | 2.4 mmol, 608 mg | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | furan-2-carbonitrile | 3.39 mmol, 297 uL | O1C(=CC=C1)C#N | C5H3NO
reactant | AlCl3 | 2.4 mmol, 320 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | 5 ml | O | H2O
solvent | dichloroethane | 6 ml | ClC(C)Cl | C2H4Cl2
product | N-(3,5-dibromo-pyrazin-2-yl)-furan-2-carboxamidine | 595 mg, 72% | BrC=1C(=NC=C(N1)Br)NC(=N)C=1OC=CC1 | C9H6Br2N4O
